US08314087B2
1-(2-(5-Bromo-2-oxopyridin-1(2 H)-yl)ethyl)-6,7-dimethoxyquinolin-4(1 H)-one.
A suspension of 5-bromo-1-(2-bromoethyl)pyridin-2(1 H)-one (100 mg, 356 μmol), 6,7-dimethoxyquinolin-4-ol (88 mg, 427 μmol), and cesium carbonate (290 mg, 890 μmol) in DMF (2 mL) was stirred at 23° C. for 18 h. The reaction mixture was partitioned between CH2Cl2 and 5% NaHCO3. The aqueous was extracted with CH2Cl2 (2×10 mL) and the combined organics were dried over MgSO4. The solvents were concentrated to an oil from toluene and purified on silica (12 g) eluting with 0-100% of 6% (2M NH3 in MeOH/CH2Cl2). MS (ESI pos. ion) m/z (MH+): 405/407. Calc'd exact mass for C18H17BrN2O4: 404. 1H NMR (400 MHz, DMSO-d6) δ ppm 3.84 (s, 3 H) 4.00 (s, 3 H) 4.25 (t, J=7.04 Hz, 2 H) 4.47 (t, J=7.04 Hz, 2 H) 5.97 (d, J=7.63 Hz, 1 H) 6.44 (d, J=9.59 Hz, 1 H) 7.41 (s, 1 H) 7.50-7.60 (m, 2 H) 7.74 (d, J=7.63 Hz, 1 H) 7.87 (d, J=2.54 Hz, 1H). 13C NMR (101 MHz, DMSO-d6) δ ppm 47.43, 49.21, 55.39, 56.01, 96.58, 98.22, 105.09, 108.26, 120.40, 120.95, 135.41, 139.10, 142.58, 142.96, 146.31, 153.03, 160.30, 175.10.

reactant | 5-bromo-1-(2-bromoethyl)pyridin-2(1 H)-one | 356 μmol, 100 mg | BrC=1C=CC(N(C1)CCBr)=O | C7H7Br2NO
reactant | 6,7-dimethoxyquinolin-4-ol | 427 μmol, 88 mg | COC=1C=C2C(=CC=NC2=CC1OC)O | C11H11NO3
reactant | cesium carbonate | 890 μmol, 290 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-(2-(5-Bromo-2-oxopyridin-1(2 H)-yl)ethyl)-6,7-dimethoxyquinolin-4(1 H)-one | BrC=1C=CC(N(C1)CCN1C=CC(C2=CC(=C(C=C12)OC)OC)=O)=O | C18H17BrN2O4
